US03959309
A solution of 3.5 g. of 4-methylaminocyclohexanone, 5.1 g. of 2,4-difluorophenylhydrazine hydrochloride, and 4 g. of methanesulfonic acid in 50 ml. of absolute ethyl alcohol was heated under reflux for four hours, cooled, and filtered. The resulting solids were washed with isopropanol and treated in chloroform with 10% potassium hydroxide solution. The chloroform extract was evaporated to dryness to give 3-(methylamino)-6,8-difluoro-1,2,3,4-tetrahydrocarbazole, m.p. 135°-138°C., which was converted to the hydrochloride salt, m.p. >280°C.

reactant | 4-methylaminocyclohexanone | CNC1CCC(CC1)=O | C7H13NO
reactant | 2,4-difluorophenylhydrazine hydrochloride | Cl.FC1=C(C=CC(=C1)F)NN
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | ethyl alcohol | C(C)O | C2H6O
product | 3-(methylamino)-6,8-difluoro-1,2,3,4-tetrahydrocarbazole | CNC1CCC=2NC3=C(C=C(C=C3C2C1)F)F | C13H14F2N2
